data/mechanisms/records/IMS8-EQT8.2o.json
{"mechanism_id": "IMS8-EQT8.2o", "species": [{"species_id": "ethyl_methylene_oxocarbenium", "mapped_smiles": "[CH2:1]=[O+:2][CH2:3][CH2:4][1H:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_formaldehyde", "mapped_smiles": "[CH2:1]=[O+:2][1H:10]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylene", "mapped_smiles": "[CH2:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethyl_methylene_oxocarbenium"]}, {"state_id": "state_products", "species_ids": ["protonated_formaldehyde", "ethylene"]}], "steps": [{"step_id": "step_onium", "from_state": "state_precursor", "to_state": "state_products", "step_class": "onium_reaction", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [2, 10]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 10]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_onium", "support_type": "textbook_proposed", "locator": {"page": 167, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3 (Two bonds cleaved; EE+ i-i(re))"}, "confidence": 0.7, "curator_note": "Table 8.2 (p.167, Two bonds cleaved, EE+ i-i with H rearrangement) = the onium reaction. H transfers from the carbon beta to O+ onto the oxygen, the O-C(alpha) bond cleaves, and the C(alpha)=C(beta) alkene is eliminated to give the protonated carbonyl. Book draws 0 curved arrows for this entry (net reactant->product only); both encoded 2-electron moves are implied by the transformation. The book draws the transferring H on the carbon adjacent to the O-CH2 (a 4-membered beta-H transfer, matching the drawn C(alpha)=C(beta) product); longer CnH2n chains would give the usual 6-membered gamma-H onium transfer. Migrating H carried as isotope [1H:10]. Instantiation = ethyl methyleneoxocarbenium (R=H); no m/z / intensity printed -- m/z curator-computed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 59.0491, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_prot_formaldehyde", "species_id": "protonated_formaldehyde", "step_id": "step_onium", "observed_mz": 31.0178, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.55}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
